US07157488B2
Combine 1-methyl-2-nitro-4-trifluoromethoxybenzene (3.73 g, 16.86 mmol), pyrrolidine (1.32 g, 18.55 mmol), N,N-dimethylformamide dimethyl acetal (6.03 g, 50.58 mmol), and dry DMF (35 ml). Heat to about 105°. After 19 hours, remove the DMF under reduced pressure to give an oily residue. Combine the residue and ethyl acetate, wash with brine, dry (Na2SO4), then concentrate to give N,N-dimethyl-2-(2-nitro-4-trifluoromethoxyphenyl)vinylamine.

reactant | 1-methyl-2-nitro-4-trifluoromethoxybenzene | 16.86 mmol, 3.73 g | CC1=C(C=C(C=C1)OC(F)(F)F)[N+](=O)[O-] | C8H6F3NO3
reactant | pyrrolidine | 18.55 mmol, 1.32 g | N1CCCC1 | C4H9N
reactant | N,N-dimethylformamide dimethyl acetal | 50.58 mmol, 6.03 g | COC(N(C)C)OC | C5H13NO2
reactant | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-2-(2-nitro-4-trifluoromethoxyphenyl)vinylamine | CN(C)C=CC1=C(C=C(C=C1)OC(F)(F)F)[N+](=O)[O-] | C11H11F3N2O3
